US05155108
To a solution of 5.15 g of 3-thiocyanato-2,2-dimethyl-1-propanesulfonamide in 100 ml of ethanol was little by little added 0.79 g of sodium borohydride with stirring and nitrogen gas atmosphere, taking an hour. The reaction mixture was refluxed for an hour and concentrated under reduced pressure. To the residue were added 20 ml of water and 30 ml of 1N-hydrochloric acid. The organic layer was collected, and the aqueous layer was washed with ethyl acetate (50 ml×3). The combined organic layers were dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was subjected to a silica gel chromatography, eluting with chloroform-methanol (10:1), to obtain 0.76 g of 3-mercapto-2,2,-dimethyl-1-propanesulfonamide.

reactant | 3-thiocyanato-2,2-dimethyl-1-propanesulfonamide | 5.15 g | S(C#N)CC(CS(=O)(=O)N)(C)C | C6H12N2O2S2
reactant | sodium borohydride | 0.79 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-mercapto-2,2,-dimethyl-1-propanesulfonamide | 0.76 g | SCC(CS(=O)(=O)N)(C)C | C5H13NO2S2
